Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transfer from ___ for repair of pathologic right 
proximal femur fracture

 
Major Surgical or Invasive Procedure:
Right long trochanteric femoral nail, open biopsy

 
History of Present Illness:
___ with CAD (stent to LAD and angioplasty of D1 in ___, 
diastolic dysfunction, non-insulin dependent diabetes and 
metastatic prostate cancer to the spine with recent right 
lateral thigh pain who presented to ___ for fall after 
leg gave out. 

Pt reports that in the ten days preceeding presentation on ___ 
he had right hip, posterior buttocks, and thigh pain causing him 
to limp. He saw his oncologist Dr. ___ in followup on ___ 
who palpated some right hip pain. On ___ evening, he attempted 
to stand from sitting and right leg collapsed and pt fell. He 
called EMS. Xray at ___ demonstrated displaced fracture of 
the proximal right femur with concern for pathologic fracture. 
Pelvis intact. ___ (Dr. ___ evaluated patient 
and determined operative care more appropriate at ___. Pt also 
noted to have pyuria on admission to ___. He recieved one 
dose of IV ceftriaxone 1g. At baseline, he does not use cane or 
walker (but has utilized them in past).

On transfer, pt stable, vitals: T98.7 BP125/70 HR90 RR16 O2 97% 
RA.

On arrival to floor, vital signs stable, in no acute distress, 
not in pain. He complains of some mild discomfort at the right 
hip.

ROS: Pt endorses increased fatigue over last ___ months. He is 
lightheaded upon standing in the morning after sleeping. 
Endorses chronic back pain since spinal surgery a year ago. No 
fevers, chills, night sweats, changes in appetitite or weight 
changes. No changes in vision or hearing, no changes in balance. 
No cough, no shortness of breath, no dyspnea on exertion. No 
chest pain or palpitations. No nausea or vomiting. No diarrhea 
or constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  

 
Past Medical History:
1. Metastatic prostate cancer with metastasis to the spine s/p 
laminectomy, XRT, 10 months of hormone therapy.
2. History of T8 fracture with epidural tumor s/p extracavitary 
corpectomy and decompression 
3. Hypertension.
4. Hyperlipidemia.
5. Noninsulin dependent diabetes.
6. CAD s/p cath in ___ which demonstrated moderate to 
severe systemic arterial hypertension, anterolateral hypokinesis 
with EF 54%, moderate diastolic ventricular dysfunction, 90% LAD 
stenosis involving D1 origin s/p angioplasty and stent, and 
angioplasty of diagonal branch.  
7. History of health care associated pneumonia. 
8. history of colon cancer s/p chemotherapy and partial 
colectomy.
9. s/p splenectomy after a footbal accident. 
10. Hard of hearing. 
 
Social History:
___
Family History:
MI in father and mother; father died at age ___, mother at age ___ 
of an MI. Malignancy: mother, type unknown. Multiple neoplasias 
and heart disease in siblings.  

 
Physical Exam:
Gen: comfortable, NAD
Resp: no respiratory distress
Card: RRR
Abd: soft. NTND
Right lower extremity:
Incisions with staples c/d/i, no erythema, induration, drainage
SILT in DP/SP/S/S/T distributions
___
2+ DP pulse
 
Pertinent Results:
___ 06:05AM BLOOD Hct-25.0*
___ 05:45AM BLOOD Glucose-211* UreaN-11 Creat-0.7 Na-138 
K-4.0 Cl-106 HCO3-24 AnGap-12
___ 05:45AM BLOOD Calcium-7.8* Phos-2.4* Mg-1.6

___ LABS:
WBC 9.2
hemoglobin 12.7
hematocrit 37.8
platelets 274
BUN and creatinine ___
INR 0.9

UA:
leukocyte esterase 25
white blood cells ___ bacteria 1+

MICRO:  UCx pending

PSA:
___ 0913 0912:L00326S 102.1 H 
___ 0840 0711:L00288S 77.4 H 
___ 1412 0613:L00___ 63.8 H 
___ 1024 0509:L___ 47.6 H 
___ 1421 0418:L___ 45.2 H 
___ ___ 0314:___ 26.6 H 
___ ___ 1213:L00328R 7.1 H 
___ 0951 0911:L00333R 13.9 H 
___ 1621 0712:___ 7.7 H 
___ 1834 0904:L00913R 0.814  

EKG: Sinus rhythm at a rate of 77, normal axis. Nonspecific ST-T 
abnormalities. QTc 491 msec.

IMAGING:  
XRay Pelvis ___:  Displaced right femur fracture

CXR ___
No acute cardiopulmonary process. Healing ninth right rib 
fracture.

 
Brief Hospital Course:
The patient was transferred from ___ for orthopedic 
management of pathologic right subtrochanteric femur fracture. 
He was evaluated by the orthopedic surgery team and confirmed to 
have a right subtrochanteric femur fracture and was admitted to 
the orthopedic surgery service. The patient was taken to the 
operating room on ___ for a long trochanteric fixation nail 
and open biopsy, which the patient tolerated well (for full 
details please see the separately dictated operative report). 
The patient was taken from the OR to the PACU in stable 
condition and after recovery from anesthesia was transferred to 
the floor. The patient was initially given IV fluids and IV pain 
medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given perioperative 
antibiotics and anticoagulation per routine. The patients home 
medications were continued throughout this hospitalization. The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. 
Of note, the patient was found to have a UTI on admission to 
___. He was started on Ceftriaxone 1g QD, which was 
continued on his admission to ___. He received 4 days 
of Ceftriaxone. The day of discharge, he was switched to 
Cefpodoxime for PO managment. He will discharged on 3 days of 
Cefpodoxime to complete a 7-day antibiotic course. The ___ 
hospital course was otherwise unremarkable.  
At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is weight bearing as tolerated in the 
right lower extremity, and will be discharged on lovenox for DVT 
prophylaxis. At the time of discharge, his surgical pathology 
was pending. The patient will follow up with Dr. ___ in two 
weeks. He will also follow-up with ___ in radiation 
oncology on ___ and his oncologist Dr. ___ on ___. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO DAILY 
4. Atorvastatin 80 mg PO DAILY 
5. PredniSONE 2.5 mg PO DAILY 
Tapered dose - DOWN 
6. Leuprolide Acetate Dose is Unknown  IM Frequency is Unknown 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. PredniSONE 2.5 mg PO DAILY 
Tapered dose - DOWN 
5. Acetaminophen 650 mg PO Q6H 
6. Calcium Carbonate 1250 mg PO TID 
7. Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth every twelve (12) 
hours Disp #*5 Tablet Refills:*0
8. Enoxaparin Sodium 40 mg SC QPM 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC nightly Disp #*14 Syringe 
Refills:*0
9. Multivitamins 1 CAP PO DAILY 
10. OxycoDONE (Immediate Release)  2.5-5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*80 Tablet Refills:*0
11. Senna 8.6 mg PO BID:PRN constipation 
12. Vitamin D 800 UNIT PO DAILY 
13. MetFORMIN (Glucophage) 1000 mg PO DAILY 
14. Docusate Sodium 100 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pathologic fracture, right femur.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
MEDICATIONS:  
- Please take all medications as prescribed by your physicians 
at discharge.  
- Continue all home medications unless specifically instructed 
to stop by your surgeon.  
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.  
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.  

ANTICOAGULATION:  
- Please take lovenox 40mg daily for 2 weeks.
 
WOUND CARE:  
- No baths or swimming for at least 4 weeks.  
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.  
- No dressing is needed if wound continues to be non-draining.  
 
ACTIVITY AND WEIGHT BEARING:  
- Right lower extremity: weight bearing as tolerated
Physical Therapy:
Right lower extremity: weight bearing as tolerated
Treatments Frequency:
Wound Care:
Wound: Surgical incision
Location: Right thigh
Dressing: Inspect wound and change dressing daily with dry 
gauze. If non-draining, can leave open to air.

 
Followup Instructions:
___